US09102625B2
To a solution of 4-(1-phenylcyclopropylamino)-6-(3-(piperazin-1-yl)phenylamino)nicotinamide (30 mg, 0.07 mmol) in DCM was added Ac2O (0.0066 mL, 0.07 mmol) and DIPEA (0.024 mL, 0.14 mmol), the mixture was concentrated and purified by preparative HPLC to give 6-(3-(4-acetylpiperazin-1-yl)phenylamino)-4-(1-phenylcyclopropylamino)nicotinamide. MS found for C27H30N6O2 as (M+H)+ 471.4. UV: λ=251.8 nm. 1H NMR: (CD3OD) δ 8.14 (s, 1H), 7.27 (m, 4H), 7.12 (dd, J=8.8, 1.2 Hz, 2H), 6.93 (dd, J=8.4, 2.4 Hz, 1H), 6.72 (s, 1H), 6.56 (dd, J=7.6, 1.2 Hz, 1H), 6.11 (s, 1H), 3.68 (m, 4H), 3.17 (m, 2H), 3.09 (m, 2H), 2.15 (s, 3H), 1.38 (m, 4H) ppm.

reactant | 4-(1-phenylcyclopropylamino)-6-(3-(piperazin-1-yl)phenylamino)nicotinamide | 0.07 mmol, 30 mg | C1(=CC=CC=C1)C1(CC1)NC1=CC(=NC=C1C(=O)N)NC1=CC(=CC=C1)N1CCNCC1 | C25H28N6O
reactant | Ac2O | 0.07 mmol, 0.0066 mL | CC(=O)OC(=O)C | C4H6O3
reactant | DIPEA | 0.14 mmol, 0.024 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-(3-(4-acetylpiperazin-1-yl)phenylamino)-4-(1-phenylcyclopropylamino)nicotinamide | C(C)(=O)N1CCN(CC1)C=1C=C(C=CC1)NC1=NC=C(C(=O)N)C(=C1)NC1(CC1)C1=CC=CC=C1 | C27H30N6O2
